US07645757B2
5.2. 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-one
A solution of 16.60 g (53.7 mmol) of 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-ol, prepared in stage 5.1., is added dropwise to a suspension, cooled with an ice bath, of 93 g (1.07 mol) of manganese dioxide in 500 ml of dichloromethane. Stirring is continued for 1.5 hours, then the mixture is filtered through celite and the filter cake is rinsed with dichloromethane. The filtrates are evaporated to produce 16.3 g (53.1 mmol) of product in the form of a yellowish oil.

reactant | 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-ol | 53.7 mmol, 16.60 g | ClC1=CC=C(C=C1)C(C#CCCCOC1OCCCC1)O | C17H21ClO3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 1.07 mol, 93 g | [O-2].[O-2].[Mn+4]
product | 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-one | 53.1 mmol, 16.3 g | ClC1=CC=C(C=C1)C(C#CCCCOC1OCCCC1)=O | C17H19ClO3
